US08541588B2
tert-Butyl [(3-cyano-4-fluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate
To a stirred solution of tert-butyl 1,3-thiazol-4-ylcarbamate (Preparation 72, 0.500 g, 0.002497 mol) in tetrahydrofuran (10.0 mL) was added lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide (1.0 M solution in tetrahydrofuran, 2.50 mL, 0.0025 mol) at 0° C. under nitrogen. After stirring for 1 hour at 0° C. the reaction mixture was cooled to −78° C. and 3-cyano-4-fluorobenzenesulfonyl chloride (0.453 g, 0.002063 mol) in tetrahydrofuran (5.0 mL) was added. The mixture was warmed to room temperature for 16 hours. Saturated aqueous ammonium chloride solution (20.0 mL) was added and the aqueous layer was extracted with ethyl acetate (3×20.0 mL). Combined organic layers were dried over sodium sulfate and concentrated in vacuo. This crude residue was purified using ISCO™ (12 g SiO2) eluting with ethyl acetate:dichloromethane (gradient 0:1 to 3:7, by volume) to afford the title compound as a white solid, 426 mg, 54% yield.

reactant | tert-butyl 1,3-thiazol-4-ylcarbamate | 0.002497 mol, 0.500 g | S1C=NC(=C1)NC(OC(C)(C)C)=O | C8H12N2O2S
reactant | lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide | 0.0025 mol, 1.0 M, 2.50 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 3-cyano-4-fluorobenzenesulfonyl chloride | 0.002063 mol, 0.453 g | C(#N)C=1C=C(C=CC1F)S(=O)(=O)Cl | C7H3ClFNO2S
reactant | ammonium chloride | 20.0 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | tert-Butyl [(3-cyano-4-fluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 54% yield | C(#N)C=1C=C(C=CC1F)S(=O)(=O)N(C(OC(C)(C)C)=O)C=1N=CSC1 | C15H14FN3O4S2
